US05401772
3,5-Dichloro-4-(3'-isopropyl-4'-t-butyldimethylsiloxyphenoxy)-nitrobenzene and 1.15 g of 10% platinum on carbon in 200 ml of ethanol is hydrogenated on a Parr shaker. Catalyst is removed by tinting through Celite and the filtrate stripped to afford 3,5-dichloro4-(3'-isopropyl-4'-t-butyldimethylsiloxyphenoxy)-aniline. This is dissolved with 3.08 ml of ethyl bromoacetate and 3.43 g of diisopropylethylamine in 50 ml dimethylformamide and heated at 140° for 18 hours. Solvent is removed with high vacuum and the residue taken up in ethyl acetate and extracted twice with water. The ethyl acetate is dried, filtered and stripped to give crude product. Chromatography on silica gel with 85:15 to 80:20 hexane:ethyl acetate as eluent affords ethyl N-[3,5-dichloro-4-(3'-isopropyl-4'-t-butyldimethylsiloxyphenoxy)phenyl]aminoacetate. NMR (CDCl3): δ0.2 (6H,s), 1.0 (9H,s), 1.2 (6H,d), 1.3 (3H,t), 3.3 (1H,m), 3.9 (2H,d), 4.3 (2H,q), 4.4 (1H,t), 6.4 (1H,d of d), 6.6 (2H,s), 6.6 (1H,d), 6.9 (1H,d).

reactant | 3,5-Dichloro-4-(3'-isopropyl-4'-t-butyldimethylsiloxyphenoxy)-nitrobenzene | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)C(C)C)Cl)[N+](=O)[O-] | C21H27Cl2NO4Si
catalyst | platinum on carbon | 1.15 g | [Pt] | Pt
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3,5-dichloro4-(3'-isopropyl-4'-t-butyldimethylsiloxyphenoxy)-aniline | ClC=1C=C(N)C=C(C1OC1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)C(C)C)Cl | C21H29Cl2NO2Si
